US09085583B2
A solution of (R)-2-chloro-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide (70 mg, 0.15 mmol) in MeOH (1 mL) solution of sodium methanolate (20 mg) was stirred at 100° C. for 60 minutes under microwave (pressure: 15.3 bar, equipment power: 150 W). The mixture was concentrated in vacuo and purified by column chromatography (silica gel, dichloromethane/methanol=10:1) to afford (R)-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methoxy-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide (37 mg, 51.9%). LRMS (M+H+) m/z: calcd 445.21. found 445. HPLC purity (214 nm): 100%. 1H NMR (400 MHz, CD3OD) δ 8.75 (s, 1H), 7.29-7.22 (m, 5H), 6.11-6.07 (m, 2H), 4.46 (s, 2H), 3.90 (s, 3H), 2.48 (s, 3H), 2.36 (s, 3H), 2.21 (s, 3H), 2.05 (d, J=7.2 Hz, 3H).

reactant | (R)-2-chloro-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide | 0.15 mmol, 70 mg | ClC=1N=CC2=C(N1)N(C(=C2C(=O)NCC=2C(=NC(=CC2C)C)O)C)[C@H](C)C2=CC=CC=C2 | C24H24ClN5O2
reactant | sodium methanolate | 20 mg | C[O-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | (R)-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methoxy-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide | 37 mg, 51.9% | OC1=NC(=CC(=C1CNC(=O)C1=C(N(C=2N=C(N=CC21)OC)[C@H](C)C2=CC=CC=C2)C)C)C | C25H27N5O3
